US20010014690A1
The N-(pyridin-4-yl)-(indol-3-yl)glyoxylamide obtained according to the 1st Stage (Scheme 2) is reacted with 4-nitrobenzyl chloride according to the “benzylation procedure” (page 5) and the compound N-(pyridin-4-yl)-[1-(4-nitrobenzyl)indol-3-yl]glyoxylamide obtained is isolated.

reactant | N-(pyridin-4-yl)-(indol-3-yl)glyoxylamide | N1=CC=C(C=C1)NC(C(=O)C1=CNC2=CC=CC=C12)=O | C15H11N3O2
reactant | 4-nitrobenzyl chloride | [N+](=O)([O-])C1=CC=C(CCl)C=C1 | C7H6ClNO2
product | N-(pyridin-4-yl)-[1-(4-nitrobenzyl)indol-3-yl]glyoxylamide | Yield: 64% | N1=CC=C(C=C1)NC(C(=O)C1=CN(C2=CC=CC=C12)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C22H16N4O4
